US06949542B2
Oxidation of 3-(2,6-dimethyl-pyridin-4-yl)-benzoic acid methyl ester (28.8 g, 0.12 mol; prepared from commercially available 3-carboxyphenylboronic acid [CAS-No. 25487-66-5] and 4-bromo-2,6-dimethylpyridine [Chem. Pharm. Bull. 38 (1990) 2446 and J. Org. Chem. 27 (1962) 1665] as described for 3-(2-methyl-pyridin-4-yl)-benzoic acid methyl ester in example K12) with H2O2 (30%, 36.5 ml, 0.36 mol) in acetic acid (117 ml) at 70° C. for 27 h and subsequent reaction of the N-oxide in acetic acid anhydride (31 ml) at 135° C. for 30 min yielded after aqueous work-up 3-(2-acetoxymethyl-6-methyl-pyridin-4-yl)-benzoic acid methyl ester (29.2 g, 82%) as a brown oil.

reactant | 3-(2,6-dimethyl-pyridin-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O | C15H15NO2
reactant | 3-carboxyphenylboronic acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 4-bromo-2,6-dimethylpyridine | BrC1=CC(=NC(=C1)C)C | C7H8BrN
reactant | 3-(2-methyl-pyridin-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C14H13NO2
reactant | H2O2 | 0.36 mol, 36.5 ml | OO | H2O2
solvent | acetic acid | 117 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid anhydride | 31 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2-acetoxymethyl-6-methyl-pyridin-4-yl)-benzoic acid methyl ester | 29.2 g, 82% | COC(C1=CC(=CC=C1)C1=CC(=NC(=C1)C)COC(C)=O)=O | C17H17NO4
